US05017724
6.0 Grams of sodium borohydride was added to a solution prepared by dissolving 15.0 g of 5,7-dimethyl-8-methoxy-1,2,3,4,4a,9a-hexahydro-9-fluorenone in 300 ml of methanol and 50 ml of water and reaction was effected under ice-cooling for 4 hours. The solvent was distilled off and the residue was extracted with dichloromethane and then the extract was washed twice with saturated sodium chloride solution. Then, this was dried with magnesium sulfate and the solvent was distilled off to obtain 16.1 g of 5,7-dimethyl-8-methoxy-9-hydroxy-1,2,3,4,4a,9a-hexahydrofluorene.

reactant | sodium borohydride | [BH4-].[Na+]
reactant | 5,7-dimethyl-8-methoxy-1,2,3,4,4a,9a-hexahydro-9-fluorenone | 15.0 g | CC1=C2C3CCCCC3C(C2=C(C(=C1)C)OC)=O | C16H20O2
solvent | methanol | 300 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | 5,7-dimethyl-8-methoxy-9-hydroxy-1,2,3,4,4a,9a-hexahydrofluorene | 16.1 g | CC1=C2C3CCCCC3C(C2=C(C(=C1)C)OC)O | C16H22O2
